US05849958
Preparation of 4-(p-Chlorophenyl)-3-fluoro-4-methyl-2-pentenenitrile, (Z)-
A mixture of cesium fluoride (41.38 g, 0.272 mol), potassium hydrogen fluoride (10.64 g, 0.136 mol) and water (13.07 g, 0.726 mol) in N,N-dimethylformamide is stirred for 10 minutes, treated with a solution of 4-(p-chlorophenyl)-4-methyl-2-pentynenitrile (18.5 g, 0.091 mol) in N,N-dimethylformamide, stirred at 80°-85° C. for 4 hours, stirred at room temperature overnight and diluted with water. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and a 1:9 ethyl acetate/hexane solution gives the title product as an oil (15.6 g, 76.8% yield).

reactant | cesium fluoride | 0.272 mol, 41.38 g | [F-].[Cs+]
reactant | potassium hydrogen fluoride | 0.136 mol, 10.64 g | F.[K]
reactant | 4-(p-chlorophenyl)-4-methyl-2-pentynenitrile | 0.091 mol, 18.5 g | ClC1=CC=C(C=C1)C(C#CC#N)(C)C | C12H10ClN
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | water | 0.726 mol, 13.07 g | O | H2O
product | 4-(p-Chlorophenyl)-3-fluoro-4-methyl-2-pentenenitrile | 15.6 g, 76.8% yield | ClC1=CC=C(C=C1)C(C(=CC#N)F)(C)C | C12H11ClFN
